US06797823B1
N-(2-Chloro-4-{[6-methoxy-7-(4-pyridyl-methoxy)-4-quinolyl]oxy}phenyl)-N′-(2,4-difluorophenyl)-urea
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea (55 mg), potassium carbonate (62 mg), and 4-(chloromethyl)pyridine hydrochloride (22 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C. for one hr. The solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 35 mg (yield 55%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea | 55 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NC1=C(C=C(C=C1)F)F | C23H16ClF2N3O4
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(chloromethyl)pyridine hydrochloride | 22 mg | Cl.ClCC1=CC=NC=C1
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[6-methoxy-7-(4-pyridyl-methoxy)-4-quinolyl]oxy}phenyl)-N′-(2,4-difluorophenyl)-urea | 35 mg, yield 55% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1)NC(=O)NC1=C(C=C(C=C1)F)F | C29H21ClF2N4O4
